* MC34063A İsimlendirilmiş Model (Hakan'ın Sembolü İçin)
* Sıralama: SWC, SWE, CT, GND, FB, VCC, ISNS, DRC
.subckt MC34063A SWC SWE CT GND FB VCC ISNS DRC
Q1 DRC SWC SWE NPN
Q2 ISNS DRC SWE NPN
D1 SWE GND D
R1 ISNS VCC 0.22
C1 CT GND 470p
Vref 5a GND 1.25
B1 5b GND V=V(FB)
S1 VCC CT 5b 5a SW
.model NPN NPN(BF=100)
.model D D(IS=1e-14)
.model SW SW(VT=0 VH=0.1 RON=0.1 ROFF=1Meg)
.ends MC34063A